US06175007B1
2-Chloro-4-fluoro-5-(6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime
A solution of 168.5 g (0.92 mol) of ethyl 3-amino-4,4,4-trifluorocrotonate in 0.1 l of dimethylformamide was added dropwise with ice-cooling to 30.4 g (1.01 mol) of 80% by weight sodium hydride in 0.5 l of dimethylformamide. After one hour at this temperature, the mixture was cooled to (−30) to (−35)° C., and a solution of 210.3 g (0.92 mol) of 2-chloro-4-fluoro-5-isocyanatobenzaldehyde (O-methyl)oxime in 0.15 l of tetrahydrofuran was added dropwise. The reaction mixture was then stirred for 20 hours at approximately 20° C., and 1.5 l of water were subsequently added with ice-cooling. Undissolved matter in the mixture formed was removed and washed using 300 ml of water. The combined filtrates were acidified using dilute hydrochloric acid. The product of value was then extracted from the solution obtained using dichloromethane. The extract was washed with water, dried over sodium sulfate and finally concentrated. Yield: 289 g; m.p.: 176-177° C. (diisopropyl ether/petroleum ether).

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 0.92 mol, 168.5 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-fluoro-5-isocyanatobenzaldehyde (O-methyl)oxime | 0.92 mol, 210.3 g | CON=CC1=C(C=C(C(=C1)N=C=O)F)Cl | C9H6ClFN2O2
reactant | water | 1.5 l | O | H2O
solvent | dimethylformamide | 0.1 l | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 l | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.15 l | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-4-fluoro-5-(6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime | CON=CC1=C(C=C(C(=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)Cl | C13H8ClF4N3O3
